US07981882B2
(+/−)-7-Chloro-6-(2-phenyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride
Treat (+/−)-7-chloro-3-(2,2,2-trifluoroacetyl)-6-(2-phenyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (prepared essentially as described in Preparation 38) (80 mg, 0.19 mmol) with basic methanol in a similar fashion to the isolated enantiomers of (+/−)-7-chloro-3-(2,2,2-trifluoroacetyl)-6-(2-phenyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine. Treat the resultant residue with excess 2 N HCl in diethyl ether to give the product as a white solid (57 mg, 82%).

reactant | (+/−)-7-chloro-3-(2,2,2-trifluoroacetyl)-6-(2-phenyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1C(CCC1)C1=CC=CC=C1 | C22H22ClF3N2O
reactant | methanol | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+/−)-7-Chloro-6-(2-phenyl-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 57 mg, 82% | Cl.ClC1=C(C2=C(CCNCC2)C=C1)N1C(CCC1)C1=CC=CC=C1 | InChI=1S/C20H23ClN2.ClH/c21-18-9-8-15-10-12-22-13-11-17(15)20(18)23-14-4-7-19(23)16-5-2-1-3-6-16;/h1-3,5-6,8-9,19,22H,4,7,10-14H2;1H
